US06656947B2
2-[(4-(1H-Indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinazoline 9-oxide
Toluene-4-sulfonic acid (2R)-7-amino-8-(hydroximino-methyl)-2,3-dihydro-1,4-benzodioxin-2-ylmethyl ester (1.0 g, 2.6 mmole) was suspended in triethyl orthoacetate (20 mL) and the mixture refluxed under nitrogen for two hours. The reaction mixture was cooled, and the solvent evaporated under vacuum. The crude residue (1.5 g) was dissolved in a mixture of THF/DMF 1:1 v/v (25 mL) and 3-(1,2,3,6-tetrahydro-4-pyridinyl)1H-indol (1.5 g, 7.5 mmole) and sodium bicarbonate (1.5 g) added. The mixture was refluxed under nitrogen for 20 hours. The reaction mixture was cooled, and the solvent evaporated. The residue was partitioned between methylene chloride and water. The layers were separated. The organic phase was washed with water and saturated sodium chloride solution, dried over magnesium sulfate and the solvent evaporated under vacuum. The crude residual oil (2.7 g) was chromatographed on silica gel using 1% methanol in chloroform, followed by 2% and 3% methanol in chloroform as eluants, to give the (S)-enantiomer of the title compound as a yellow solid (40 mg), m.p. 118-192° C.

reactant | Toluene-4-sulfonic acid (2R)-7-amino-8-(hydroximino-methyl)-2,3-dihydro-1,4-benzodioxin-2-ylmethyl ester | 2.6 mmole, 1.0 g | NC=1C=CC2=C(O[C@H](CO2)COS(=O)(=O)C2=CC=C(C=C2)C)C1C=NO | C17H18N2O6S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)1H-indol | 7.5 mmole, 1.5 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | sodium bicarbonate | 1.5 g | C([O-])(O)=O.[Na+]
reactant | triethyl orthoacetate | 20 mL | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | THF DMF | C1CCOC1.CN(C)C=O
product | 2-[(4-(1H-Indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinazoline 9-oxide | 40 mg | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC=2C(=C3C=[N+](C(=NC3=CC2)C)[O-])O1 | C25H24N4O3
